US06515011B2
Into a stirred solution of 7-chloro-3,4-dihydroisoquinolin-1-one (11.6 g, 12.6 mmol) in 50 mL of anhydrous N,N-dimethylformamide under inert atmosphere at ambient temperature was added diisopropylethylamine (17.0 mL, 95.8 mmol, 1.5 eq), di-tert-butyl dicarbonate (15.33 g, 70.26 mmol, 1.1 eq), and a catalytic amount of 4-(dimethylamino)pyridine. This solution was stirred at ambient temperature for 2 hours, concentrated in vacuo, then partitioned between methylene chloride and water. The organics were dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash silica gel chromatography using methylene chloride as an eluent. Desired fractions were concentrated in vacuo to afford 2-(tert-butoxycarbonyl)-7-chloro-3,4-dihydro-2H-isoquinolin-1-one as a clear colorless oil (HPLC RT=3.55 min, method A; LC-MS m/z=282.1).

reactant | 7-chloro-3,4-dihydroisoquinolin-1-one | 12.6 mmol, 11.6 g | ClC1=CC=C2CCNC(C2=C1)=O | C9H8ClNO
reactant | diisopropylethylamine | 95.8 mmol, 17.0 mL, 1.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 70.26 mmol, 15.33 g, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(tert-butoxycarbonyl)-7-chloro-3,4-dihydro-2H-isoquinolin-1-one | C(C)(C)(C)OC(=O)N1C(C2=CC(=CC=C2CC1)Cl)=O | C14H16ClNO3
